US05149700
Step 5) Preparation of N-Methyl-N-[2-[methyl(5-amino-1H-benzimidazol-2-yl)amino]ethyl]benzamide
A mixture of N-methyl-N-[2-[methyl(5-nitro-1H-benzimidazol-2-yl)amino]ethyl]benzamide (1.30 g, 3.68 mmol) and SnCl2.2H2O (4.15 g, 18.39 mmol) in EtOH (15 mL) was heated under reflux for 1 hour. The mixture was cooled and made basic (pH8) with 2.5N NaOH. The precipitate was removed by filtration and the filtrate was concentrated. The residue was stirred with EtOAc (150 mL) overnight, dried (MgSO4), and concentrated to give 1.12 g (94%) of a green foam.

reactant | N-methyl-N-[2-[methyl(5-nitro-1H-benzimidazol-2-yl)amino]ethyl]benzamide | 3.68 mmol, 1.30 g | CN(C(C1=CC=CC=C1)=O)CCN(C1=NC2=C(N1)C=CC(=C2)[N+](=O)[O-])C | C18H19N5O3
reactant | SnCl2.2H2O | 18.39 mmol, 4.15 g | O.O.Cl[Sn]Cl
reactant | NaOH | 2.5N | [OH-].[Na+]
solvent | EtOH | 15 mL | CCO | C2H6O
product | N-Methyl-N-[2-[methyl(5-amino-1H-benzimidazol-2-yl)amino]ethyl]benzamide | 1.12 g, 94% | CN(C(C1=CC=CC=C1)=O)CCN(C1=NC2=C(N1)C=CC(=C2)N)C | C18H21N5O
